US09284314B2
(2S,5R)-5-[(benzyloxy)amino]piperidine-2-carboxamide (291 mg, 1.17 mmol) was mixed with triethylamine (193 l, 1.37 mmol) and toluene (2.4 ml) at 20° C. di-t-butyldicarbonate (310 mg, 1.42 mmol) as a solution in toluene (2.0 ml) was added to the reaction mixture, and the mixture was stirred at 40° C. until the reaction was complete. The solution was diluted with toluene (3.9 mL) and carbonyl diimidazole (462 mg, 2.85 mmol) was added and agitation was continued until the reaction was deemed to be complete. Methanesulfonic acid (663 l, 10.2 mmol) was added and agitation was continued until the reaction was deemed to be complete. After lowering the temperature to 20° C., aqueous potassium hydrogen carbonate (10.2 ml, 1N, 10.2 mmol) was added and the mixture was stirred at 20° C. until the reaction was complete. The aqueous layer was separated and the toluene layer washed with water (3 mL), citric acid (1N, 3 mL) and water (3 mL). The four aqueous washes were twice back-extracted with dichloromethane (2×3 mL). The three organic extracts were combined to give (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide as a solution in toluene and dichloromethane (176 mg, 0.64 mmol, 55%).

reactant | (2S,5R)-5-[(benzyloxy)amino]piperidine-2-carboxamide | 1.17 mmol, 291 mg | C(C1=CC=CC=C1)ON[C@@H]1CC[C@H](NC1)C(=O)N | C13H19N3O2
reactant | triethylamine | 1.37 mmol, 193 l | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 1.42 mmol, 310 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | carbonyl diimidazole | 2.85 mmol, 462 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Methanesulfonic acid | 10.2 mmol, 663 l | CS(=O)(=O)O | CH4O3S
reactant | potassium hydrogen carbonate | 10.2 mmol, 1N, 10.2 ml | C(O)([O-])=O.[K+]
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.9 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.4 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)N | C14H17N3O3
